US07186724B2
29b: Preparation of 4-[l-(3-bromo-4-methyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester:
Add ammonium hydroxide hydrochloride (50.68 mmol, 3.52 g, 2.00 equivalents) to a stirred solution of 4-[1-(3-bromo-4-methyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester (25.54 mol, 9.84 g, 1.00 equivalents) in pyridine (47.5 mL). Stir at room temperature overnight and at 70° C. for 4 hours. Cool the reaction mixture and add hydrochloric acid (3 M solution, 115 mL). Extract the reaction mixture with dichloromethane (115 mL), filter the organic layer, wash with water (100 mL), dry over magnesium sulfate, filter and evaporate. Recrystallize the resulting residue from toluene to yield a white solid (4.84 g). LC/MS (APCI), m/e 403 (MH+), retention time 2 min. 32 sec. Condition I.

reactant | ammonium hydroxide hydrochloride | 50.68 mmol, 3.52 g, 2.00 equivalents | Cl.[OH-].[NH4+]
reactant | 4-[1-(3-bromo-4-methyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 25.54 mol, 9.84 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C=1SC=C(C1Br)C | C16H22BrNO3S
reactant | hydrochloric acid | 3 M, 115 mL | Cl | ClH
solvent | pyridine | 47.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-[l-(3-bromo-4-methyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 4.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NO)C=1SC=C(C1Br)C | C16H23BrN2O3S
